US04563210
5-(Trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxamide (2.36 grams, 0.073 mole) was suspended in 30 ml of toluene, 10 ml of thionyl chloride, and about 1 ml of DMF. The suspension was stirred and heated to reflux, then refluxed for 11/2 hours. Solvent and excess thionyl chloride was removed in vacuo. The crude solid was crystallized from toluene yielding 5-(trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carbonitrile, yield 0.7 gram, mp=83°-85° C.

reactant | 5-(Trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carboxamide | 0.073 mole, 2.36 grams | FC(C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)N)(F)F | C11H6Cl2F3N3O
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | about 1 ml | CN(C)C=O | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(trifluoromethyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-4-carbonitrile | FC(C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C#N)(F)F | C11H4Cl2F3N3
